US09290451B2
d) 6-Cyclopropylmethoxy-5-(1,1-dioxido-isothiazolidin-2-yl)-pyridine-2-carboxylic acid
Sodium hydride (0.029 g, 0.86 mmol) was added in portions to a solution of cyclopropanemethanol (CAN 2516-33-8, 20 mL) and the reaction mixture was stirred for 30 min at room temperature. 6-Chloro-5-(1,1-dioxido-isothiazolidin-2-yl)-pyridine-2-carboxylic acid methyl ester (0.050 g, 0.17 mmol) was added and the mixture was heated to 100° C. overnight, quenched with water and concentrated under reduced pressure. The residue was dissolved in water, extracted with ethyl acetate (50 mL). The pH of the aqueous layer was adjusted to 2 by addition of 1 N hydrochloric acid and subsequently extracted with ethyl acetate (3×20 mL). The combined extracts were washed with water and brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure to give the crude product. The crude product was purified by column chromatography (silica gel, 4 g, 33% ethyl acetate in petroleum ether) to yield the title compound (25 mg, 0.08 mmol, 46%) as yellow solid; MS (EI): m/e=313.1 [M+H]+.

reactant | Sodium hydride | 0.86 mmol, 0.029 g | [H-].[Na+]
reactant | 6-Chloro-5-(1,1-dioxido-isothiazolidin-2-yl)-pyridine-2-carboxylic acid methyl ester | 0.17 mmol, 0.050 g | COC(=O)C1=NC(=C(C=C1)N1S(CCC1)(=O)=O)Cl | C10H11ClN2O4S
reactant | cyclopropanemethanol | 20 mL | C1(CC1)CO | C4H8O
product | 6-Cyclopropylmethoxy-5-(1,1-dioxido-isothiazolidin-2-yl)-pyridine-2-carboxylic acid | 0.08 mmol, 25 mg, 46% | C1(CC1)COC1=C(C=CC(=N1)C(=O)O)N1S(CCC1)(=O)=O | C13H16N2O5S
